US09056998B2
Synthesis of distearyl naphthalene-2,6-dicarboxylate
To a 3 neck 100 mL round bottomed flask equipped with a Dean Stark trap and condenser, thermocouple and argon inlet was added dimethyl naphthalene-2,6-dicarboxylate (10 grams, 40.94 mmoles, available from Sigma Aldrich), stearyl alcohol (22.15 grams, 81.89 mmoles, available from Spectrum Chemical), Fascat 4100 (0.03 grams, 0.1 wt %, available from Arkema Inc) and Xylenes (50 ml, available from Sigma Aldrich). The mixture was slowly heated under argon to 160° C. during which reagents melted/dissolved. The temperature was raised to 180° C. The reaction mixture was stirred at 180° C. overnight (˜20 hours) during which 46 mL of a mixture of xylenes and methanol was collected. Vacuum was applied (1-2 mm-Hg) for about 10 minutes during which an additional 5 mL of a mixture of Xylenes and methanol was collected. The solution was cooled under argon to about 140° C. and discharged in an aluminum tray where it was allowed to cool to room temperature to give product as an off-white solid. The product was transferred to a 1 L Erlenmeyer flask, about 100 mL of isopropyl alcohol was added, heated to about 100° C. during which product dissolved. The solution was cooled to room temperature during which product crystallized out, filtered and dried on a vacuum pump overnight to give 25.33 grams product as an off-white solid (86% yield). The product was shown to be pure by 1H NMR with trace amounts of the mono-ester. Physical properties of this compound are shown in Table 2 above. The FIGURE shows the rheological profile.

reactant | dimethyl naphthalene-2,6-dicarboxylate | 40.94 mmoles, 10 grams | C1=C(C=CC2=CC(=CC=C12)C(=O)OC)C(=O)OC | C14H12O4
reactant | stearyl alcohol | 81.89 mmoles, 22.15 grams | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | methanol | CO | CH4O
solvent | isopropyl alcohol | about 100 mL | C(C)(C)O | C3H8O
product | distearyl naphthalene-2,6-dicarboxylate | 25.33 grams, 86% yield | C1=C(C=CC2=CC(=CC=C12)C(=O)OCCCCCCCCCCCCCCCCCC)C(=O)OCCCCCCCCCCCCCCCCCC | C48H80O4
